US06194426B1
2-Cyano-3-(3-pyridyl)-5,6,7,8-tetrahydroindolizine-1-carbonitrile is prepared according to the same method described in Example 15, from 19.3 g of a mixture of approximately 35 mol % of 3-(3-pyridyl)-5,6,7,8-tetrahydroindolizine-1-carbonitrile and 65 mol % of 3-(3-pyridyl)-5,6,7,8-tetrahydroindolizine-2-carbonitrile and from 36.6 g of sulphonyl isocyanate chloride. 2.8 g of 2-cyano-3-(3-pyridyl)-5,6,7,8-tetrahydroindolizine-1-carbonitrile are thus obtained in the form of a white solid melting at 178° C.

reactant | 3-(3-pyridyl)-5,6,7,8-tetrahydroindolizine-1-carbonitrile | N1=CC(=CC=C1)C1=CC(=C2CCCCN12)C#N | C14H13N3
reactant | 3-(3-pyridyl)-5,6,7,8-tetrahydroindolizine-2-carbonitrile | N1=CC(=CC=C1)C1=C(C=C2CCCCN12)C#N | C14H13N3
reactant | sulphonyl isocyanate chloride | 36.6 g | S(=O)(=O)(N=C=O)Cl | CClNO3S
product | 2-cyano-3-(3-pyridyl)-5,6,7,8-tetrahydroindolizine-1-carbonitrile | 2.8 g | C(#N)C=1C(=C2CCCCN2C1C=1C=NC=CC1)C#N | C15H12N4
